US07470715B2
To a solution of (±)-1-(1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropyl)-propan-1-ol, which may be produced as in Example 174 (2.1 g) in 60 mL of anhydrous THF is added tetrabutylammonium fluoride hydrate (2.4 g.) The reaction mixture is stirred at room temperature for 4 hrs. Saturated ammonium chloride (50 mL) is added to the reaction mixture, followed with 300 mL of ethyl acetate. The aqueous layer is separated and then the organic layer is washed with additional saturated ammonium chloride (2×50 mL), followed with brine (50 mL.) The organic layer is dried (sodium sulfate), filtered, and the filtrate is evaporated to give a white solid, which was purified by flash chromatography (silica gel, 40% ethyl acetate in hexane) to afford the white solid (±)-4-{5-{1-(1-hydroxy-propyl)-cyclopropyl]-4-phenyl-isoxazol-3-yl}-phenol; MS (APCI+) m/z 336 (MH+.)

reactant | (±)-1-(1-{3-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl]-4-phenyl-isoxazol-5-yl}-cyclopropyl)-propan-1-ol | C(C)(C)(C)[Si](OC1=CC=C(C=C1)C1=NOC(=C1C1=CC=CC=C1)C1(CC1)C(CC)O)(C)C | C27H35NO3Si
reactant | tetrabutylammonium fluoride hydrate | 2.4 g | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (±)-4-{5-{1-(1-hydroxy-propyl)-cyclopropyl]-4-phenyl-isoxazol-3-yl}-phenol | OC(CC)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C21H21NO3
